US04777172
5N sodium hydroxide (6.42 ml) was added dropwise to a stirred mixture of 2-chloromethyl-4-morpholinopyrimidine hydrochloride (3.65 g) and 2-mercapto-5-methoxybenzimidazole (2.63 g). Stirring was continued for 1.5 hours and the mixture was allowed to stand for a further 16 hours. After stripping, the solid residue was washed with water and recrystallised from acetonitrile to give 5-methoxy-2-(4-morpholino-2-pyrimidinylmethylthio)-(1H)-benzimidazole (4.09 g), m.p. 188°-92°.

reactant | sodium hydroxide | 5N, 6.42 ml | [OH-].[Na+]
reactant | 2-chloromethyl-4-morpholinopyrimidine hydrochloride | 3.65 g | Cl.ClCC1=NC=CC(=N1)N1CCOCC1
reactant | 2-mercapto-5-methoxybenzimidazole | 2.63 g | SC=1NC2=C(N1)C=CC(=C2)OC | C8H8N2OS
product | 5-methoxy-2-(4-morpholino-2-pyrimidinylmethylthio)-(1H)-benzimidazole | 4.09 g | COC1=CC2=C(NC(=N2)SCC2=NC=CC(=N2)N2CCOCC2)C=C1 | C17H19N5O2S
